US07893056B2
To a mixture of (3R)-4,4-dimethyl-3-pyrrolidinol hydrochloride (0.9920 g, 6.630 mmol) in 1:1 DCM-1 N aq. NaOH (33 mL) was added benzyl chloroformate (0.994 mL, 6.963 mmol). The mixture was vigorously stirred overnight and then diluted with DCM (100 mL). The phases were partitioned, and the organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was then purified by silica gel chromatography (40% EtOAc in hexanes) to afford phenylmethyl (4R)-4-hydroxy-3,3-dimethyl-1-pyrrolidinecarboxylate (1.4654 g, 89% yield) as a colorless oil. LCMS: (M+H)+: 250.1.

reactant | (3R)-4,4-dimethyl-3-pyrrolidinol hydrochloride | 6.630 mmol, 0.9920 g | Cl.CC1([C@H](CNC1)O)C
reactant | benzyl chloroformate | 6.963 mmol, 0.994 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 N, 33 mL | C(Cl)Cl | CH2Cl2
product | phenylmethyl (4R)-4-hydroxy-3,3-dimethyl-1-pyrrolidinecarboxylate | 1.4654 g, 89% yield | O[C@@H]1C(CN(C1)C(=O)OCC1=CC=CC=C1)(C)C | C14H19NO3
